US07772190B2
tert-Butyl N-methyl-N-morpholinocarbonyl-L-alanyl-D-lactate
0.65 g (5.0 mmol) of N,N-diisopropylethylamine (“Hünig's base”) and 0.45 g (5.0 mmol) of morpholine are added at room temperature to a solution of 2.0 g (5.0 mmol) of tert-butyl N-methyl-N-(4-nitro-phenoxy)carbonyl-L-alanyl-D-lactate in 40 ml of methylene chloride, and the mixture is stirred at reflux temperature for 18 hours. During the course of this a strong yellow colouration of the reaction mixture occurs. The reaction solution is shaken twice with water, and the organic phase is separated off and concentrated in vacuo after drying over sodium sulphate. The residual crude product is chroratographed on a silica gel column (silica gel 60—Merck, particle size: 0.04 to 0.063 mm) using the eluent cyclohexane:ethyl acetate (1:1).

reactant | N,N-diisopropylethylamine | 5.0 mmol, 0.65 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine | 5.0 mmol, 0.45 g | N1CCOCC1 | C4H9NO
reactant | tert-butyl N-methyl-N-(4-nitro-phenoxy)carbonyl-L-alanyl-D-lactate | 5.0 mmol, 2.0 g | CN([C@@H](C)C(=O)[C@@](C(=O)OC(C)(C)C)(O)C)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H24N2O8
reactant | water | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl N-methyl-N-morpholinocarbonyl-L-alanyl-D-lactate | CN([C@@H](C)C(=O)[C@@](C(=O)OC(C)(C)C)(O)C)C(=O)N1CCOCC1 | C16H28N2O6
